### PR TITLE
split #501 

### PR DESCRIPTION
**Pull request by or4nge19**

### CODE REVIEW

File: PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 1]
```diff
@@ -0,0 +1,567 @@
...
+
+universe u v w
+
+open Bundle Set Finset Function Filter Module Topology ContinuousLinearMap
+open scoped Manifold Bundle LinearMap Dual
+
+namespace QuadraticForm
+
+variable {K : Type*} [Field K]
+
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean]: Section heading

File: PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 2]
```diff
@@ -0,0 +1,567 @@
...
+/-- The negative dimension (or index) of a quadratic form is the dimension
+    of a maximal negative definite subspace. -/
+noncomputable def negDim {E : Type*} [AddCommGroup E]
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean]: Can we make this doc-string more verbose. I can't find a reference for this definition when I search the internet.

File: PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 3]
```diff
@@ -0,0 +1,567 @@
...
+    {w : Fin (finrank ℝ E) → SignType}
+    (h_equiv : QuadraticMap.Equivalent q (QuadraticMap.weightedSumSquares ℝ fun i => (w i : ℝ))) :
+    ∀ i, w i ≠ SignType.neg := by
+  intro i hi
+  obtain ⟨v, hv_ne_zero, hq_neg⟩ := QuadraticForm.neg_weight_implies_neg_value h_equiv hi
+  have hq_pos : 0 < q v := hq v hv_ne_zero
+  exact lt_asymm hq_neg hq_pos
+
+/-- For a positive definite quadratic form, the negative dimension (index) is zero. -/
+theorem rankNeg_eq_zero {E : Type*} [AddCommGroup E]
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean]: lemma not theorem

File: PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 4]
```diff
@@ -0,0 +1,567 @@
...
+    Classical.choose_spec h_exists
+  have h_no_neg : ∀ i, w i ≠ SignType.neg :=
+    QuadraticForm.posDef_no_neg_weights hq h_equiv
+  simp [Finset.card_eq_zero, Finset.filter_eq_empty_iff, h_no_neg]
+  exact fun ⦃x⦄ => h_no_neg x
+
+end QuadraticForm
+
+/-- Helper function to convert the metric tensor at `x` to a quadratic form. -/
+private def pseudoRiemannianMetricValToQuadraticForm
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean]: Can we change this doc-string to explain what it is, instead of "Helper function".

File: PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 5]
```diff
@@ -0,0 +1,567 @@
...
+        (fun v₁ v₂ y => by simp only [map_add, add_apply]; ring)
+        (fun a v y => by simp only [map_smul, smul_apply]; ring_nf; exact Eq.symm (smul_add ..))
+        (fun v y₁ y₂ => by simp only [map_add, add_apply]; ring)
+        (fun a v y => by simp only [map_smul, smul_apply]; ring_nf; exact Eq.symm (smul_add ..)),
+            by
+              intro v y
+              simp only [LinearMap.mk₂_apply, ContinuousLinearMap.map_add,
+                ContinuousLinearMap.add_apply, symm x]
+              ring⟩
+
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean]: Section heading

File: PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 6]
```diff
@@ -0,0 +1,567 @@
...
+/-- A pseudo-Riemannian metric of smoothness class `C^n` on a manifold `M` modelled on `(E, H)`
+with model `I`. This structure defines a smoothly varying, non-degenerate, symmetric,
+continuous bilinear form `gₓ` of constant negative dimension on the tangent space `TₓM`
+at each point `x`. Requires `M` to be `C^{n+1}` smooth.-/
+@[ext]
+structure PseudoRiemannianMetric
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean]: I think this doc string could be made clearer. Similar to for the charts, e.g. E is usually R etc.

File: PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 7]
```diff
@@ -0,0 +1,567 @@
...
+@[simp]
+lemma toBilinForm_isSymm (g : PseudoRiemannianMetric E H M n I) (x : M) :
+    (toBilinForm g x).IsSymm := by
+  intro v w; simp only [toBilinForm_apply]; exact g.symm x v w
+
+@[simp]
+lemma toBilinForm_nondegenerate (g : PseudoRiemannianMetric E H M n I) (x : M) :
+    (toBilinForm g x).Nondegenerate := by
+  intro v hv; simp_rw [toBilinForm_apply] at hv; exact g.nondegenerate x v hv
+
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean]: Section heading. Something like `Flat`

File: PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 8]
```diff
@@ -0,0 +1,567 @@
...
+/-- The "musical" isomorphism (index lowering) from the tangent space to its dual,
+    induced by a pseudo-Riemannian metric. -/
+def flat (g : PseudoRiemannianMetric E H M n I) (x : M) :
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean]: Can we write the definition of the function in the doc-string

File: PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 9]
```diff
@@ -0,0 +1,567 @@
...
+      map_smul' := LinearMap.map_smul φ
+      cont := φ.continuous_of_finiteDimensional }
+  map_add' f g := rfl
+  map_smul' c f := rfl
+  left_inv f := by ext; rfl
+  right_inv φ := rfl
+
+/-- For a finite-dimensional normed space, the dimension of the continuous dual
+equals the dimension of the original space. -/
+lemma finrank_continuousDual_eq_finrank {𝕜 E : Type*} [NontriviallyNormedField 𝕜]
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean]: Not used here, and not about anything in this file, so likely is in the wrong place. Same with result above.

File: PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 10]
```diff
@@ -0,0 +1,567 @@
...
+
+lemma coe_flatEquiv
+    (g : PseudoRiemannianMetric E H M n I) (x : M) :
+    (g.flatEquiv x : TangentSpace I x →ₗ[ℝ] (TangentSpace I x →L[ℝ] ℝ)) = g.flatL x := rfl
+
+@[simp]
+lemma flatEquiv_apply
+    (g : PseudoRiemannianMetric E H M n I) (x : M) (v w : TangentSpace I x) :
+    (g.flatEquiv x v) w = g.val x v w := rfl
+
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean]: Section heading

File: PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 11]
```diff
@@ -0,0 +1,567 @@
...
+/-- The "musical" isomorphism (index raising) from the dual of the tangent space to the
+    tangent space, induced by a pseudo-Riemannian metric. This is the inverse of `flatEquiv`. -/
+def sharpEquiv
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean]: Can we add the definition in the doc-string

File: PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 12]
```diff
@@ -0,0 +1,567 @@
...
+
+/-- The metric evaluated at `v` and `sharp ω`. -/
+lemma apply_vec_sharp
+    (g : PseudoRiemannianMetric E H M n I) (x : M) (v : TangentSpace I x)
+    (ω : TangentSpace I x →L[ℝ] ℝ) :
+    g.val x v (g.sharpL x ω) = ω v := by
+  rw [g.symm x v (g.sharpL x ω)]
+  rw [← flatL_apply g x (g.sharpL x ω)]
+  rw [flatL_apply_sharpL g x ω]
+
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean]: Section heading or new file

File: PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 13]
```diff
@@ -0,0 +1,567 @@
...
+variable {E : Type v} {H : Type w} {M : Type w} {n : WithTop ℕ∞}
+variable [NormedAddCommGroup E] [NormedSpace ℝ E]
+variable [TopologicalSpace H] [TopologicalSpace M] [ChartedSpace H M] [ChartedSpace H E]
+variable {I : ModelWithCorners ℝ E H}
+variable [IsManifold I (n + 1) M]
+variable [inst_tangent_findim : ∀ (x : M), FiniteDimensional ℝ (TangentSpace I x)]
+
+/-- The value of the induced metric on the cotangent space at point `x`. -/
+noncomputable def cotangentMetricVal (g : PseudoRiemannianMetric E H M n I) (x : M)
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean]: Can we write defn in doc-string

File: PhysLean/Geometry/Metric/Riemannian/Defs [hunk 14]
```diff
@@ -0,0 +1,204 @@
...
+
+variable {E : Type v} [NormedAddCommGroup E] [NormedSpace ℝ E]
+variable {H : Type w} [TopologicalSpace H]
+variable {M : Type w} [TopologicalSpace M] [ChartedSpace H M] [ChartedSpace H E]
+variable {I : ModelWithCorners ℝ E H} {n : ℕ∞}
+
+/-- A Riemannian metric of smoothness class `n` on a manifold `M` over `ℝ`.
+    This extends a pseudo-Riemannian metric with the positive definiteness condition. -/
+@[ext]
+structure RiemannianMetric
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/Riemannian/Defs]: More  verbose doc-string

File: PhysLean/Geometry/Metric/Riemannian/Defs [hunk 15]
```diff
@@ -0,0 +1,204 @@
...
+  (I : ModelWithCorners ℝ E H) (n : ℕ∞) (M : Type w)
+  [TopologicalSpace M] [ChartedSpace H M] [IsManifold I (n + 1) M]
+  [inst_tangent_findim : ∀ (x : M), FiniteDimensional ℝ (TangentSpace I x)] : Type _ where
+  /-- The underlying pseudo-Riemannian metric. -/
+  toPseudoRiemannianMetric : PseudoRiemannianMetric E H M (n) I
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/Riemannian/Defs]: use `extends PseudoRiemannianMetric E H M n I where` instead of this

File: PhysLean/Geometry/Metric/Riemannian/Defs [hunk 16]
```diff
@@ -0,0 +1,204 @@
...
+  coe g := g.toPseudoRiemannianMetric
+
+@[simp]
+lemma pos_def (g : RiemannianMetric I n M) (x : M) (v : TangentSpace I x)
+    (hv : v ≠ 0) :
+  (g.toPseudoRiemannianMetric.val x v) v > 0 := g.pos_def' x v hv
+
+/-- The inverse of the musical isomorphism (index raising), which is an isomorphism
+    in the Riemannian case. This is well-defined because the metric is positive definite. -/
+def sharp
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/Riemannian/Defs]: Delete, will get for free if use `extend`.

File: PhysLean/Geometry/Metric/Riemannian/Defs [hunk 17]
```diff
@@ -0,0 +1,204 @@
...
+    (g : RiemannianMetric I n M) (x : M) :
+    (TangentSpace I x →L[ℝ] ℝ) ≃L[ℝ] TangentSpace I x :=
+  g.toPseudoRiemannianMetric.sharpEquiv x
+
+/-- Express a Riemannian metric at a point as a quadratic form. -/
+abbrev toQuadraticForm (g : RiemannianMetric I n M) (x : M) :
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/Riemannian/Defs]: Delete, will get for free if use `extend`.

File: PhysLean/Geometry/Metric/Riemannian/Defs [hunk 18]
```diff
@@ -0,0 +1,204 @@
...
+
+/-- The quadratic form associated with a Riemannian metric is positive definite. -/
+@[simp]
+lemma toQuadraticForm_posDef (g : RiemannianMetric I n M) (x : M) :
+    (g.toQuadraticForm x).PosDef :=
+  λ v hv => g.pos_def x v hv
+
+/-- The application of a Riemannian metric's quadratic form to a vector. -/
+@[simp]
+lemma toQuadraticForm_apply (g : RiemannianMetric I n M) (x : M)
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/Riemannian/Defs]: Delete, will get for free if use `extend`.

File: PhysLean/Geometry/Metric/Riemannian/Defs [hunk 19]
```diff
@@ -0,0 +1,204 @@
...
+    g.toQuadraticForm x v = g.toPseudoRiemannianMetric.val x v v := by
+  simp only [toQuadraticForm, PseudoRiemannianMetric.toQuadraticForm_apply]
+
+lemma riemannian_metric_negDim_zero (g : RiemannianMetric I n M) (x : M) :
+    (g.toQuadraticForm x).negDim = 0 := by
+  apply QuadraticForm.rankNeg_eq_zero
+  exact g.toQuadraticForm_posDef x
+
+/-- The inner product on the tangent space at point `x` induced by the Riemannian metric `g`. -/
+def inner (g : RiemannianMetric I n M) (x : M) (v w : TangentSpace I x) : ℝ :=
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/Riemannian/Defs]: Delete, will get for free if use `extend`.

File: PhysLean/Geometry/Metric/Riemannian/Defs [hunk 20]
```diff
@@ -0,0 +1,204 @@
...
+  g.toPseudoRiemannianMetric.val x v w
+
+@[simp]
+lemma inner_apply (g : RiemannianMetric I n M) (x : M) (v w : TangentSpace I x) :
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/Riemannian/Defs]: Delete, will get for free if use `extend`.

File: PhysLean/Geometry/Metric/Riemannian/Defs [hunk 21]
```diff
@@ -0,0 +1,204 @@
...
+    inner g x v w = g.toPseudoRiemannianMetric.val x v w := rfl
+
+variable (g : RiemannianMetric I n M) (x : M)
+
+/-- Pointwise symmetry of the inner product. -/
+lemma inner_symm (v w : TangentSpace I x) :
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/Riemannian/Defs]: Delete, will get for free if use `extend`.

File: PhysLean/Geometry/Metric/Riemannian/Defs [hunk 22]
```diff
@@ -0,0 +1,204 @@
...
+    g.inner x v w = g.inner x w v := by
+  simp only [inner_apply]
+  exact g.toPseudoRiemannianMetric.symm x v w
+
+/-- The inner product space core for the tangent space at a point, derived from the
+Riemannian metric. -/
+noncomputable def tangentInnerCore (g : RiemannianMetric I n M) (x : M) :
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/Riemannian/Defs]: Delete, will get for free if use `extend`.

File: PhysLean/Geometry/Metric/Riemannian/Defs [hunk 23]
```diff
@@ -0,0 +1,204 @@
...
+  smul_left := λ r u v => by
+    simp only [inner_apply, map_smul, conj_trivial]
+    rfl
+  definite := fun v (h_inner_zero : g.inner x v v = 0) => by
+    by_contra h_v_ne_zero
+    have h_pos : g.inner x v v > 0 := g.pos_def x v h_v_ne_zero
+    linarith [h_inner_zero, h_pos]
+
+/- We Define NormedAddCommGroup and InnerProductSpace structures locally.
+ We DO NOT mark them as instance.-/
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/Riemannian/Defs]: Add why we don't mark them as instances.

File: PhysLean/Geometry/Metric/Riemannian/Defs [hunk 24]
```diff
@@ -0,0 +1,204 @@
...
+
+lemma norm_eq_norm_of_metricNormedAddCommGroup (g : RiemannianMetric I n M) (x : M)
+    (v : TangentSpace I x) : norm g x v = @Norm.norm (TangentSpace I x)
+    (@NormedAddCommGroup.toNorm _ (TangentSpace.metricNormedAddCommGroup g x)) v := by
+  unfold norm
+  let normed_group := TangentSpace.metricNormedAddCommGroup g x
+  unfold TangentSpace.metricNormedAddCommGroup
+  simp only [inner_apply]
+  rfl
+
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/Riemannian/Defs]: Section heading.

**Review by jstoobysmith — COMMENTED** [review]
Lots of very small comments. Looks like a lot - but I just went through everything specific instead of making general comments.

File: PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 25]
```diff
@@ -0,0 +1,567 @@
...
+  val : ∀ (x : M), TangentSpace I x →L[ℝ] (TangentSpace I x →L[ℝ] ℝ)
+  /-- The metric is symmetric: `gₓ(v, w) = gₓ(w, v)`. -/
+  symm : ∀ (x : M) (v w : TangentSpace I x), (val x v) w = (val x w) v
+  /-- The metric is non-degenerate: if `gₓ(v, w) = 0` for all `w`, then `v = 0`. -/
+  nondegenerate : ∀ (x : M) (v : TangentSpace I x), (∀ w : TangentSpace I x,
+    (val x v) w = 0) → v = 0
+  /-- The metric varies smoothly: Expressed in local coordinates via any chart `e`, the function
+      `y ↦ g_{e.symm y}(mfderiv I I e.symm y v, mfderiv I I e.symm y w)` is `C^n` smooth on the
+      chart's target `e.target` for any constant vectors `v, w` in the model space `E`. -/
+  smooth_in_charts' : ∀ (x₀ : M) (v w : E),
```
Comment (jstoobysmith) [inline PhysLean/Geometry/Metric/PseudoRiemannian/Defs.lean]: This doc string does not match it's definition. You say in the doc-string 'for any chart `e`', but in the definition it is for a fixed chart.

File: PhysLean/Geometry/Metric/Riemannian/Defs (hunk 22 above)
Comment (or4nge19) [reply PhysLean/Geometry/Metric/Riemannian/Defs]: I'm not sure I can do this, the definite condition for the tangentInnerCore requires the metric to be positively defined, which only holds for Riemannian metric, not for PseudoR. 
This is my only reservation, will shortly PR with all other comments addressed (thanks, it all looks nicer now)

Comment (jstoobysmith) [reply PhysLean/Geometry/Metric/Riemannian/Defs]: My bad sorry.

**Review by jstoobysmith — APPROVED** [review]
